datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(C)[OH+:10]C(CC)C([H])=C1C>>[OH:10]C(CC)/C([H])=C([C:20](C)=[OH+:21])/C 21=20;20,10=10"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])C1=CC=CC=C1)CC>>CCC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21][H] 10=20;20,21=21"
"[H]C1C(O[C:20](=[O:10])N1C)C.[O-:21]CCCCCC>>[H]C1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)[H])[H])C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C(O)C1C>>[O:10]([Na])C(C)C(O)C([C:20](OCC)=[O:21])C 21=20;20,10=10"
"[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C)[S]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1CC)CC.[O-:21]C>>CCC1C(O[C:20](N1CC)([O-:10])[O:21]C)CC 21=20;20,10=10"
"[H]N([C:20]([O-:10])(OC)[O:21]CCCCCC)[H]>>[H]N([C:20](=[O:10])OC)[H].[O-:21]CCCCCC 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][H])([S]CC)[S]CC.[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([S]CC)[S]CC 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[NH][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[O-:10]C([H])C([H])C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C([H])C([H])[O:10]1 10=20;20,21=21"
"[H][S:10]C(C)C(C)C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C([H])[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([K])[C:21]([O-:20])(OCC)OC>>[O:20]=[C:21](OCC)OC.C[O:10][K] 20=21;21,10=10"
"[H][NH+:10](C([H])C([H])[NH]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])[NH][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CCCCCC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)[H].[O-:21][H] 10=20;20,21=21"
"C1=CC=CC=C1[O+:10]([K])[C:21]([O-:20])(O[H])OCCCCCC>>[O:20]=[C:21](O[H])OCCCCCC.C1=CC=CC=C1[O:10][K] 20=21;21,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C([H])[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][S:10]C([H])C([H])C([H])[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C([H])[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])[H])CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C([H])[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
"[OH:10]C(CCC)/C(C)=C([H])\C([H])[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])C([H])=C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21]C>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C1=CC=CC=C1)CC 21=20;20,10=10"
"[OH:10]C(C)C([H])/C([H])=C(C)\[C:20](OC)=[OH+:21]>>[OH:21][C:20]1(OC)C(C)=C([H])C([H])C(C)[OH+:10]1 10=20;20,21=21"
"[H][S:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]([NH:21]CC)([O]C)[O]C.[Cl-]>>[Cl-].[H][NH:10][H].CC[NH+:21]=[C:20]([O]C)[O]C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21]CCCCCC>>[H]C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)C 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[S]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(CC)[S]1 10=20;20,21=21"
